US04897490
The general procedure of Example 23, Step A was repeated, except that the 3,3-bis(4-fluorophenyl)-2-[1-(1-methylethyl)-1H-tetrazol-5-yl]-2-propenal utilized therein was replaced by 3,3-bis(4-fluorophenyl)-2-[2-(1-methylethyl)-2H-tetrazol-5-yl]-2-propenal and there was thereby produced mostly 5,5-bis(4-fluorophenyl)-4-[2-(1-methylethy)-2H-tetrazol-5-yl]-2,4-pentadienal in 82% yield; MS (CI): m/e=381 for (M+H)+. This product was then subjected to the general procedure of Example 23, Step B and there was thereby produced ethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-[2-(1-methylethyl)-2H-tetrazol-5-yl]-3-oxo-6,8-nonadienoate containing some inseparable rthyl 7,7-bis(4-fluorophenyl)-5-hydroxy-6-[2-(1-methylethyl)-2H-tetrazol-5-yl]-3-oxo-6heptenoate in 69% yield.

reactant | 3,3-bis(4-fluorophenyl)-2-[1-(1-methylethyl)-1H-tetrazol-5-yl]-2-propenal | FC1=CC=C(C=C1)C(=C(C=O)C1=NN=NN1C(C)C)C1=CC=C(C=C1)F | C19H16F2N4O
reactant | 3,3-bis(4-fluorophenyl)-2-[2-(1-methylethyl)-2H-tetrazol-5-yl]-2-propenal | FC1=CC=C(C=C1)C(=C(C=O)C=1N=NN(N1)C(C)C)C1=CC=C(C=C1)F | C19H16F2N4O
product | 5,5-bis(4-fluorophenyl)-4-[2-(1-methylethy)-2H-tetrazol-5-yl]-2,4-pentadienal | 82% yield | FC1=CC=C(C=C1)C(=C(C=CC=O)C=1N=NN(N1)C(C)C)C1=CC=C(C=C1)F | C21H18F2N4O
